US07629488B2
A solution of [1-{[2-benzyloxy-1-(4-phenyl-1H-imidazol-2-yl)-ethyl]-isopropyl-carbamoyl}-2-(4-carbamoyl-2,6-dimethyl-phenyl)-ethyl]-carbamic acid tert-butyl ester, (0.287 g, 0.439 mmol), in chloroform (10 mL) was cooled in an ice bath and treated with 0.62 mL (4.4 mmol) of iodotrimethylsilane. The reaction, which immediately clouded, was warmed slowly to room temperature while stirring. After 16 h, the reaction was cooled in an ice bath to 5-10° C. and treated with 100 mL of MeOH. The quenched mixture was stirred at 5-10° C. for 30 min, removed from the ice bath and stirred for an additional 30 min, and concentrated in vacuo to yield an orange residue that was subjected to reverse phase HPLC (water/acetonitrile/0.1% TFA). The fractions of interest were combined and the sample was lyophilized to yield 4-(2-amino-2-{[2-hydroxy-1-(4-phenyl-1H-imidazol-2-yl)-ethyl]-isopropyl-carbamoyl}-ethyl)-3,5-dimethyl-benzamide (TFA salt) as a white powder (HPLC: 99% @ 254 nm and 100% @ 214 nm)

reactant | [1-{[2-benzyloxy-1-(4-phenyl-1H-imidazol-2-yl)-ethyl]-isopropyl-carbamoyl}-2-(4-carbamoyl-2,6-dimethyl-phenyl)-ethyl]-carbamic acid tert-butyl ester | 0.439 mmol, 0.287 g | C(C)(C)(C)OC(NC(CC1=C(C=C(C=C1C)C(N)=O)C)C(N(C(C)C)C(COCC1=CC=CC=C1)C=1NC=C(N1)C1=CC=CC=C1)=O)=O | C38H47N5O5
reactant | iodotrimethylsilane | 4.4 mmol, 0.62 mL | I[Si](C)(C)C | C3H9ISi
reactant | MeOH | 100 mL | CO | CH4O
reactant | water acetonitrile | O.C(C)#N
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(2-amino-2-{[2-hydroxy-1-(4-phenyl-1H-imidazol-2-yl)-ethyl]-isopropyl-carbamoyl}-ethyl)-3,5-dimethyl-benzamide | NC(CC1=C(C=C(C(=O)N)C=C1C)C)C(N(C(C)C)C(CO)C=1NC=C(N1)C1=CC=CC=C1)=O | C26H33N5O3
